US09376420B2
Step 3: 1-(5-bromo-pyridin-3-yl)-4,4,5,5,5-pentafluoro-pent-1-en-3-one
To a saturated solution of pentafluoroiodoethane (0.84 M, in diethyl ether) (108.0 mL, 91.0 mmol), was slowly added a solution of methyllithium/lithium bromide (1.5 M, in diethyl ether) (61.0 mL, 91.0 mmol) under nitrogen atmosphere at −78° C. The reaction mixture was stirred for 20 minutes and then a solution of 3-(5-bromo-pyridin-3-yl)-N-methoxy-N-methyl-acrylamide (8.2 g, 30.3 mmol, in diethyl ether/tetrahydrofuran 50.0 mL/150.0 mL) prepared in Step 2 was slowly added thereto at −78° C. The reaction mixture was stirred at room temperature for 2 hours, quenched with distilled water, acidified by a 10% potassium hydrogen sulfate solution (pH=5), and then extracted with ethyl acetate. The extract was washed with a saturated solution of sodium hydrogen carbonate, dried on anhydrous magnesium sulfate, and then concentrated under reduced pressure to give a yellow liquid residue. The resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/5) to give 2.9 g of the titled compound as a yellow solid.

reactant | pentafluoroiodoethane | 91.0 mmol, 0.84 M, 108.0 mL | FC(C(I)(F)F)(F)F | C2F5I
reactant | methyllithium lithium bromide | 91.0 mmol, 1.5 M, 61.0 mL | C[Li].[Br-].[Li+]
reactant | 3-(5-bromo-pyridin-3-yl)-N-methoxy-N-methyl-acrylamide | 30.3 mmol, 50.0 mL, 8.2 g | BrC=1C=C(C=NC1)C=CC(=O)N(C)OC | C10H11BrN2O2
product | 1-(5-bromo-pyridin-3-yl)-4,4,5,5,5-pentafluoro-pent-1-en-3-one | 2.9 g | BrC=1C=C(C=NC1)C=CC(C(C(F)(F)F)(F)F)=O | C10H5BrF5NO
